US07645753B2
4-(5-Nitro-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-methylsulfanyl-5-nitro-benzooxazole (10.0 g, 47.57 mmol, 1.0 equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (14.29 g, 71.36 mmol, 1.5 equiv) in anhydrous DMAc (50 mL) was heated to 140° C. for 72 h. The solution was concentrated by evaporation under reduced pressure and the crude reaction product purified with column chromatography on silica eluting with ethyl acetate/cyclohexane (1:1) to give 4.1 g (24%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.48 (s, 9H), 1.50-1.53 (m, 2H), 2.11-2.20 (m, 2H), 2.87-3.05 (m, 2H), 3.89-4.01 (m, 1H), 4.05-4.16 (m, 2H), 5.51 (d, J=7.5 Hz, 1H), 7.30 (d, J=8.7 Hz, 1H), 8.02 (dd, J=8.7 Hz, J=2.3 Hz, 1H), 8.18 (d, J=2.3 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 28.40, 32.29, 42.46, 50.88, 79.81, 108.36, 111.99, 116.77, 143.90, 145.23, 152.38, 154.66, 162.69. MS (ISP): 363.5 [M+H]+.

reactant | 2-methylsulfanyl-5-nitro-benzooxazole | 47.57 mmol, 10.0 g, 1.0 equiv | CSC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H6N2O3S
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 71.36 mmol, 14.29 g, 1.5 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMAc | 50 mL | CC(=O)N(C)C | C4H9NO
product | 4-(5-Nitro-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.1 g, 24% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C17H22N4O5
